US07723369B2
2-tert-Butyl-5-{3-[2-(4′-cyclohexylmethoxy-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-isothiazol-3-one-1,1-dioxide (4 mg, 0.005 mmol) was treated with TFA following general procedure to give 5-{3-[2-(4′-cyclohexylmethoxy-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-isothiazol-3-one-1,1-dioxide.

reactant | 2-tert-Butyl-5-{3-[2-(4′-cyclohexylmethoxy-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-isothiazol-3-one-1,1-dioxide | 0.005 mmol, 4 mg | C(C)(C)(C)N1S(C(=CC1=O)C1=CC(=CC=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)C1=CC=C(C=C1)OCC1CCCCC1)(=O)=O | C42H41Cl2N3O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-{3-[2-(4′-cyclohexylmethoxy-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-isothiazol-3-one-1,1-dioxide | C1(CCCCC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C=1C=C(C=CC1)C1=CC(NS1(=O)=O)=O | C38H33Cl2N3O4S
